.SUBCKT LM395 1 2 3
*             C  B  E
J1 1 3 4 JN
Q2 5 5 6 QPL .1
Q3 5 8 9 QNL .2
Q4 8 5 7 QPL .1
Q5 81 8 3 QNL .2
Q6 3 81 10 QPL .2
Q7 12 81 13 QNL .2
Q8 10 5 11 QPL .2
Q9 14 12 10 QPL .2
Q10 16 5 17 QPL .2
Q11 16 14 15 QNL .2
 Q12 3 20 16 QPL .2
*     Q13 1 19 20 QNL .2
*    Q14 19 5 18 QPL .2
*Q15 3 21 19 QPL .2
*Q16 21 22 16 QPL .2
*Q17 21 3 24 QNL .2
*Q18 22 22 16 QPL .2
*Q19 22 3 241 QNL 2
Q20 3 25 16 QPL .2
Q21 25 26 3 QNL .2
Q22A 35 35 1 QPL 2
Q22B 16 35 1 QPL 2
Q23 35 16 30 QNL 2
Q24A 27 40 29 QNL .2
Q24B 27 40 28 QNL .2 ;my
Q25 1 31 41 QNL 5
Q26 1 41 32 QNL 50
D1 3 4 DZ
D2 33 1 DZ
D3 29 34 DZ
R1 1 6 300 ;310 ;my
R2 1 7 300 ;310 ;my
R3 1 11 600 ;190 ;my
R4 1 17 125 ;82 ;my
*R5 1 18 5.6K
R6 4 8 100K
R7 8 81 130
R8 10 12 13k ;12.4K ;my
R9 9 3 180
R10 13 3 4.7k ;4.1K ;my
R11 14 3 5.8K
R12 15 3 100 ;72 ;my
 * R13 20 3 5.1K
  R13 20 2  500 ;my
*R14 2 24 12K
*R15 24 241 2.4K
R16 16 25 8k ;12k  ;6.7K ;my
*R17 16 40 12K
R17 41 40 100 ;2k ;my
R18 30 41 400 ; 400 ;130 ;my
R19 16 31 370 ;300 ;370 ;my
R20 26 27 20k; 10k  ;13K ;my
R21 27 40 200; 260  ;400 ;my
R22 3 41 500 ;160 ;my
R23 33 34 18K
R24 28 29  30 ;160 ;my
R25 28 32  10m ;3 ;my
R26 32 3 0.095
*C1 21 3 30PF
*C2 21 2 30PF
     C3 25 26 5PF
CBS1 5 3 2PF
CBS2 35 3 1PF
*CBS3 22 3 1PF
.MODEL JN NJF(BETA=1E-4 VTO=-7)
.MODEL DZ D(BV=6.3)
.MODEL QNL NPN(EG=1.22 BF=80 RB=100 CCS=1.5PF TF=.3NS TR=6NS CJE=2PF BVcbo=86 nBVcbo=5 is=1f
+ CJC=1PF VAF=100)
.MODEL QPL PNP(BF=40 RB=20 TF=.6NS TR=10NS CJE=1.5PF CJC=1PF VAF=50)
.ENDS LM395